US04086219
(d) L-Seryl-L-tyrosyl-D-tryptophyl-L-leucine methyl ester
Nα -Benzyloxycarbonyl-L-seryl-L-tyrosyl-D-tryptophyl-L-leucine methyl ester, 9.0 g., is dissolved in 850 ml. of boiling methanol. The solution is shaken with hydrogen and 1200 mg. of 20% palladium-on-carbon at room temperature and atmospheric pressure. The reaction is complete in thirty to forty minutes as shown by thin layer chromatography. The reaction mixture is filtered, the solvent evaporated from the filtrate and the residue dried under reduced pressure, 7.1 g., and is used without purification.

reactant | Nα -Benzyloxycarbonyl-L-seryl-L-tyrosyl-D-tryptophyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O)CC1=CC=C(C=C1)O)=O)CC1=CNC2=CC=CC=C12)=O)CC(C)C)=O | C38H45N5O9
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-Seryl-L-tyrosyl-D-tryptophyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](N)CO)=O)CC1=CC=C(C=C1)O)=O)CC1=CNC2=CC=CC=C12)=O)CC(C)C)=O | C30H39N5O7
